US05017211
A mixture of 35 g of isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3,4-dimethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate, 165 ml of concentrated sulphuric acid and 165 ml of methylene chloride is stirred well at room temperature for 30 minutes. Subsequently, the reaction mixture is poured cautiously onto 500 g of ice. The aqueous mixture is extracted twice with 250 ml of ethyl acetate each time and the organic phase is extracted three times with 200 ml of saturated sodium bicarbonate solution each time. The aqueous sodium bicarbonate solutions are combined and acidified with concentrated sulphuric acid. The separated product is extracted twice with 600 ml of ethyl acetate each time and the organic phases are washed twice with 200 ml of water each time, dried over anhydrous magnesium sulphate and concentrated. In this manner there is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3,4-dimethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid which can be purified further by digestion in ethanol. M.p. 236°-239° C.

reactant | isopropyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-3,4-dimethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | 35 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C16H16ClFN2O4
reactant | sulphuric acid | 165 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 165 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3,4-dimethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C)=O | C13H10ClFN2O4
